US07951838B2
Step 5: 3-(tert-butyldimethylsilyloxy)cyclobutanol
To a stirred solution of 3-(tert-butyldimethylsilyloxy)cyclobutyl pivalate (4.32 g, 15 mmol) in THF (20 ml) at 0° C. was added diisobutylaluminum hydride, 1.0 m solution in hexanes (48 ml, 48 mmol) dropwise. The reaction was stirred in 1 h, then slowly quenched with Rochelle's salt. The quenched mixture was stirred and layers were separated. The organic layer was dried over MgSO4 and concentrated to give the title compound as a colorless oil.

reactant | 3-(tert-butyldimethylsilyloxy)cyclobutyl pivalate | 15 mmol, 4.32 g | C(C(C)(C)C)(=O)OC1CC(C1)O[Si](C)(C)C(C)(C)C | C15H30O3Si
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-(tert-butyldimethylsilyloxy)cyclobutanol | [Si](C)(C)(C(C)(C)C)OC1CC(C1)O | C10H22O2Si
